US05834463
1,3-dibenzyl-4-trifluoromethyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one
To a solution of 4-trifluoromethyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one(3.0 g, 13.1 mmol) in N,N-dimethylformamide(20 mL) was added sodium hydride (content 60%, 1.1 g, 27.5 mmol), and the mixture was stirred for 15 minutes. To the mixture was added benzyl bromide (4.7 g, 27.5 mmol), which was stirred for further 30 minutes. The reaction mixture was diluted with water, which was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The concentrate was crystallized from ethyl acetate-hexane to give 3.3 g of the titled compound. Yield 61%. m.p. 150°-151° C.

reactant | 4-trifluoromethyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | 13.1 mmol, 3.0 g | FC(C1=NC2=C(NC(C1)=O)C=CC=C2)(F)F | C10H7F3N2O
reactant | sodium hydride | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | benzyl bromide | 27.5 mmol, 4.7 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,3-dibenzyl-4-trifluoromethyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | 3.3 g, Yield 61% | C(C1=CC=CC=C1)N1C(C(C(=NC2=C1C=CC=C2)C(F)(F)F)CC2=CC=CC=C2)=O | C24H19F3N2O
